US05698560
2-(Hydroxymethyl)benzylamine
Lithium aluminium hydride (17.4 g, 458 mmol) was suspended in dried tetrahydrofuran (300 ml), followed by stirring under ice-cooling in an argon atmosphere. A solution of 2-cyanobenzaldehyde (20.0 g, 153 mmol) dissolved in dried tetrahydrofuran (100 ml) was dropwise and portionwise added thereto and the reaction solution was stirred for 3 hours under heating at reflux. After the reaction, the solution was ice-cooled and sodium sulfate 10 hydrate was portionwise added thereto until foaming and fever ceased. The reaction solution was filtered and the filtrate was concentrated to give the title compound (20.9 g, quantitative) as oily substances. This compound was used in the subsequent reaction without further purification.

reactant | Lithium aluminium hydride | 458 mmol, 17.4 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-cyanobenzaldehyde | 153 mmol, 20.0 g | C(#N)C1=C(C=O)C=CC=C1 | C8H5NO
reactant | sodium sulfate 10 hydrate | O.O.O.O.O.O.O.O.O.O.[O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-(Hydroxymethyl)benzylamine | 20.9 g | OCC1=C(CN)C=CC=C1 | C8H11NO
